Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Lisinopril
 
Attending: ___.
 
Chief Complaint:
lower extremity edema 
 
Major Surgical or Invasive Procedure:
Catheterization
 
History of Present Illness:
___ with known abdominal aortic aneurysm with dissection
(___) s/p repair of ascending aortic aneurysm (___) followed 
by
endovascular abdominal aortic repair with bilateral iliac artery
aneurysm repair (___), found to have type II Endoleak ___ on
CTA within the abdominal aortic sac (7.4 x 7.4cm from 7.0x 6.7cm
in ___ regenerating from the L4 lumbar artery for which he
underwent embolization with coils subsequently transferred to
___ ___ from ___ with biventricular heart
failure and enlarging aneurysm (reportedly 7.9 x 9.3cm) with
suspicion for persistent Endoleak. He was recently admitted to
OSH on ___ for management of exertional dyspnea and 
worsening
lower extremity edema over the past month. He was directly
admitted from Dr ___ and placed on lasix gtt and
subsequently transitioned to oral (40mg po BID) for diuresis.
Weight on admit (___) was 272.8lb and 260lb (___) prior to
transfer. He is maintained on coumadin for chronic AFib, 
although
it was held beginning ___ and lovenox 40mg SQ daily was
initiated. 
 
Past Medical History:
-AF on coumadin
-HTN
-Hyperlipidemia
-CKD
-Gout
-AAA s/p treatment (see ___)
-Ascending aortic dissection s/p bioprosthetic AVR and aortic
root replacement
 
PAST SURGICAL HISTORY (per OMR):
-Endovascular abdominal aortic repair with bilateral iliac
aneurysm repair on ___, angio/coil L4 (___)
-Emergent repair of DeBakey type 1 acute dissection secondary
to myocardial ischemia and pericardial tamponade with wide-
open AI on ___
-s/p bioprosthetic AVR
-h/o appendectomy in ___
-ascending aortic aneurysm repair on ___
-s/p tonsillectomy
- Skin BCC/SCC s/p excision
 
Social History:
___
Family History:
 alzheimer's disease
 
Physical Exam:
ADMISSION EXAM
T 98.3  HR 70AFib  BP 135/72  RR 18  O2sat 98%RA
Gen: NAD, A+Ox3
CV: irregularly irregular
Pulm: clear to auscultation, bilaterally
Abd: soft, NT, ND
Ext: pitting edema from mid-thigh to feet bilaterally
RLE Femoral: P  DP: P  ___: P
LLE Femoral: P  DP: P  ___: P
 
Pertinent Results:
ADMISSION LABS
___ 10:00PM BLOOD WBC-4.8 RBC-3.37* Hgb-9.7* Hct-29.3* 
MCV-87 MCH-28.9 MCHC-33.3 RDW-15.1 Plt ___
___ 10:00PM BLOOD ___ PTT-38.2* ___
___ 10:00PM BLOOD Glucose-95 UreaN-57* Creat-3.0* Na-137 
K-4.0 Cl-92* HCO3-34* AnGap-15
.
URINE STUDIES 
___ 10:26PM URINE Color-Straw Appear-Clear Sp ___
___ 10:26PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 10:26PM URINE RBC-<1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
.
EKG ___
Atrial fibrillation with rapid ventricular response. Left axis 
deviation.
Non-specific inferior ST-T wave changes. Compared to the 
previous tracing
of ___ atrial fibrillation with rapid ventricular response 
has appeared,
ventricular ectopy has abated. Otherwise, no diagnostic interim 
change.
.
CXR ___
IMPRESSION:  Small right pleural effusion with superimposed 
dense band
projecting over right lower lung of unclear etiology, possibly 
collapse or
pleural thickening.
.
CT ABDOMEN AND PELVIS
IMPRESSION:
1.  Redemonstration of aorto-bi-iliac stent graft with interval 
significant
enlargement of the abdominal aneurysm to 9.3 cm in transverse 
dimension,
previously 7.5 cm.  Interval mild enlargement of the right 
common iliac artery aneurysm.  Limited evaluation for underlying 
endoleak due to lack of IV contrast.  Recommend dedicated 
contrast-enhanced CT or Doppler ultrasound forfurther 
evaluation.
 
2.  Multiple bilateral renal cysts. A 1.0 cm hyperdense lesion 
in the left
upper pole is new. This likely represents a hemorrhagic cyst.
 
3.  New low-density small right pleural effusion and basilar 
atelectasis.
 
4.  Cholelithiasis without signs of cholecystitis.
 
5.  Nonspecific prominent portacaval lymph node.
 
6.  Punctate pulmonary nodule in the posterior basal segment of 
the left lower lobe is unchanged since ___ consistent with 
a granuloma.  
 
The study and the report were reviewed by the staff radiologist.
.
ABDOMINAL US ___ 
IMPRESSION:  1. Increase in size of the aortic aneurysm 
measuring 8.0 x 9.2 cm (previously 7.1 x 7.4 cm on the abdomen 
CT ___
 
2. No endoleak could be identified, however note is made that 
this is an
extremely limited ultrasound due to the patient's body habitus 
and also the
lack of available US contrast.
.
TTE ___ 
The left atrium is mildly dilated. No left atrial mass/thrombus 
seen (best excluded by transesophageal echocardiography). The 
right atrium is moderately dilated. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). Right ventricular chamber size and free 
wall motion are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis. Trace aortic regurgitation is seen. The mitral valve 
leaflets are structurally normal. Mild to moderate (___) mitral 
regurgitation is seen. Moderate [2+] tricuspid regurgitation is 
seen. There is mild pulmonary artery systolic hypertension. 
There is an anterior space which most likely represents a 
prominent fat pad. 

IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with preserved regional and global Mild 
moderate mitral regurgitation with normal valve morphology. 
Pulmonary artery hypertension. Moderate tricuspid regurgitation. 


 
Brief Hospital Course:
___ with hx of HTN, Afib, HL, AAA and AF on coumadin transferred 
from OSH for concern for expanding AAA (not seen on diagnostic 
cath) now transferred to cardiology for management of CHF in the 
setting of recieving aggressive pre-procedure hydration. 

# Acute on chronic dCHF- As above patient initially presented to 
on OSH with complaint of lower extremity edema. He was diuresed 
aggressively with lasix gtt.  On transfer the patients weight 
had decreased to 260 lbs from 278 lbs.  He received IVF as a 
part of pre/post cath hydration. After cath the patient was 
transferred to the cardiology service where he was diuresed once 
again with a lasix drip. On discharge his weight was XXXX. An 
echo showed a normal ejection fraction without focal wall 
abnormalities suggestive of diastolic dysfunction. He underwent 
stress XXXX. His home antihypertensives were initially held but 
restarted XXXXX 

# Afib- Patient has a history of PAF, currently in fib with 
adequate rate control. He is on coumadin at home which was held 
for procedure. His INR was subtherapeutic, so he was bridged 
with heparin until his INR returned to the ___ range. His home 
aspirin was also continued 

# AAA- As above the patient initially transferred to ___ after 
imaging demonstrated enlargement of his aortic aneurysm 
concerning for endoleak.  Catheterization did not show evidence 
of endoleak. He will follow-up with vascular as an outpatient. 

# Acute on chronic CKD- Patient with Cr mildly elevated from 
baseline. Likely reflective of renal vascular congestion in the 
setting of CHF exacerbation.  Patient also at risk for contrast 
induced nephropathy in the coming days. Creatinine trended 
XXXXX.   

# L groin bleed- Patient had some bleeding at cath site post 
intervention.   Hemostasis was achieved with holding pressure. 
HCT remained stable without further bleeding. 

# HTN:
- hold atenolol, caudet, maxzide as above 

# Coronaries: Patient with cath in ___ demonstrating a 30% 
narrowing of the LAD. EKGs reassuring.  No c/o of chest pain. 
Given new heart failure a stress test was performed which showed 
XXXX.

# HL: Patient was continued on his home statin
.
# TRANSITIONAL ISSUES
- Patient was full code throughout this hospitalization 
- Patient's ___ was held during admission. He will need to see 
his PCP for further management of the ___
 
Medications on Admission:
Preadmissions medications listed are incomplete and require 
futher investigation.  Information was obtained from  TRANSFER 
SUMMARY.
1. Atenolol 12.5 mg PO BID 
2. Atorvastatin 10 mg PO DAILY 
3. Warfarin 5 mg PO DAILY16 
DOSE UNKNOWN  
4. Furosemide 40 mg PO BID 
5. Vitamin D 1000 UNIT PO DAILY 
6. Probenecid ___ mg PO BID:PRN GOUT 
7. irbesartan *NF* 300 mg Oral daily 
8. Maxzide *NF* (triamterene-hydrochlorothiazid) 25 mg Oral 
daily 
9. Caduet *NF* (amlodipine-atorvastatin) ___ mg Oral daily  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Congestive heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ cardiology service for management of 
your congestive heart failure. For this, you received diuresis 
with IV and oral diuretics. We also restarted your coumadin and 
since your INR was subtherapeutic, we covered you with heparin 
until your INR became therapeutic on coumadin.
 
Followup Instructions:
___